US09211254B2
12 ML of 10 N hydrochloric acid (14.2 g, 0.12 mol), 68 mL of purified water, and 200 mL of an aqueous solution containing some of the additives listed in Table 1 (the concentration of the additives is 5 fold of that in the desired suspension product that will be prepared) were mixed to prepare a hydrochloric acid-additives solution. To 700 mL of an aqueous solution of sodium hydroxide which was prepared by adding purified water to 4.4 g of sodium hydroxide (0.11 mol), 20 g of rebamipide (0.054 mol) was added and dissolved with heating to give a sodium hydroxide-rebamipide solution.

reactant | hydrochloric acid | 0.12 mol, 10 N, 14.2 g | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 0.11 mol, 4.4 g | [OH-].[Na+]
reactant | rebamipide | 0.054 mol, 20 g | C=1C=CC2=C(C1)C(=CC(=O)N2)CC(C(=O)O)NC(=O)C=3C=CC(=CC3)Cl | C19H15ClN2O4
solvent | water | O | H2O
solvent | water | 68 mL | O | H2O
product | sodium hydroxide rebamipide | [OH-].[Na+].C=1C=CC2=C(C1)C(=CC(=O)N2)CC(C(=O)O)NC(=O)C=3C=CC(=CC3)Cl | InChI=1S/C19H15ClN2O4.Na.H2O/c20-13-7-5-11(6-8-13)18(24)22-16(19(25)26)9-12-10-17(23)21-15-4-2-1-3-14(12)15;;/h1-8,10,16H,9H2,(H,21,23)(H,22,24)(H,25,26);;1H2/q;+1;/p-1
